US07420059B2
To a stirred solution of 1,1-dimethylethyl 2-oxo-1-piperidinecarboxylate (10 g, 50 mmole) in anhydrous THF (50 mL) which had been cooled to −20 to −30° C. was added LiHMDS in THF (55 mL, 1M, 55 mmol) solution, maintaining the temperature between −25 to −35° C. The reaction mixture was stirred for 20-30 minutes then transferred via cannula to a cooled solution (−20° C.) of methyl 3-(4-fluorophenyl)-2-isobutyrylacrylate (12.5 g, 50 mmol) in 75 mL anhydrous THF. When the reaction was complete as judged by TLC monitoring, the reaction was quenched with 100 mL of saturated ammonium chloride and extracted with ethyl acetate (2×200 mL). The combined organic phases were dried over sodium sulfate, filtered and concentrated to provide an off white solid. Recrystallization from ethyl acetate/hexanes afforded 17.4 g (77% yield) of methyl 1-[(1,1-dimethylethoxy)carbonyl]-β-(4-fluorophenyl)-α-(2-methyl-1-oxopropyl)-2-oxo-3-piperidinepropanoate in as a white crystalline solid. NMR clearly shows a mixture of isomers: IR (KBr) cm−1 2979, 1758, 1755, 1745, 1714, 1671; 1H NMR (CDCl3, 400 MHz) δ 7.21-7.20 (m, 4H), 6.93-6.92 (m, 4H), 4.40 (dd, 2H), 4.09 (m, 2H), 3.66 (s, 3H), 3.58-3.33 (m, 4H), 3.32 (s, 3H), 2.80-2.48 (m, 4H), 2.02-1.60 (m, 6H), 1.47 (s, 18H), 1.43-1.51 (m, 2H), 1.08 (d, J=4 Hz, 3H), 1.05 (d, J=8 Hz, 3H), 0.85 (d, J=4 Hz, 3H), 0.71 (d, J=8 Hz, 3H); 13C NMR (CDCl3, 100 MHz) δ 206.9, 206.8, 171.7, 171.6, 168.4, 168.2, 162.6, 160.2, 151.9, 134.5, 134.3, 131.1, 130.0, 130.8, 130.7, 115.2, 115.1, 115, 114.9, 82.9, 61.5, 60.8, 53.0, 52.6, 48.2, 48.0, 46.3, 45.9, 45.6, 44.9, 41.9, 40.9, 28.63, 24.2, 24.0, 21.9, 21.3, 19.5, 19.0, 18.8, 18.7; HRMS (ES) calcd. for C24H32FNNaO6 (M+Na): 472.2111; found: 472.2100.

reactant | 1,1-dimethylethyl 2-oxo-1-piperidinecarboxylate | 50 mmole, 10 g | O=C1N(CCCC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | methyl 3-(4-fluorophenyl)-2-isobutyrylacrylate | 50 mmol, 12.5 g | FC1=CC=C(C=C1)C=C(C(=O)OC)C(C(C)C)=O | C14H15FO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 55 mmol, 1M, 55 mL | C1CCOC1 | C4H8O
product | methyl 1-[(1,1-dimethylethoxy)carbonyl]-β-(4-fluorophenyl)-α-(2-methyl-1-oxopropyl)-2-oxo-3-piperidinepropanoate | 17.4 g, 77% yield | CC(C)(OC(=O)N1C(C(CCC1)C(C(C(=O)OC)C(C(C)C)=O)C1=CC=C(C=C1)F)=O)C | C24H32FNO6
